US07589105B2
N,N′-bis(3-hydroxy-2-methylphenyl)pyrimidine-4,6-diamine (Exemplified Compound No. 1-86)
This compound was obtained (yield 40%) based on the method described in Production Example 2B using 4,6-dichloropyrimidine instead of the 4,6-dichloro-2-ethylpyrimidine, and using 3-amino-2-methylphenol instead of the 3-aminophenol.

reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3-amino-2-methylphenol | NC=1C(=C(C=CC1)O)C | C7H9NO
product | N,N′-bis(3-hydroxy-2-methylphenyl)pyrimidine-4,6-diamine | yield 40% | OC=1C(=C(C=CC1)NC1=NC=NC(=C1)NC1=C(C(=CC=C1)O)C)C | C18H18N4O2
